datasets/10k__Tet_Int.csv
SMILES Labelled
"[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])CCCCCC)[H])C1=CC=CC=C1>>[H]N([C:20]1(OC(C(C([O:21]1)[H])CCCCCC)[H])[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)C)C)[O-:10])CC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])C)C)CC 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[Cl:21])[H])C1=CC=CC=C1>>[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21"
"CC[O:10][H].C[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([NH:21]C)([NH]C8=CC=CC=C8)[NH][H] 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH]C(CC)C(CC)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]CC)[NH]C(CC)C(CC)[NH]1 10=20;20,21=21"
"CCN([C:20]1(OC(C([O:21]1)CC)CCCCCC)[O-:10])CC>>CCN([C:20](=[O:10])OC(C([O-:21])CC)CCCCCC)CC 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C([H])[NH]2.[H][O:10][H] 21=20;20,10=10"
"C1(C([O:21][C:20](O1)([O-:10])OC)CCCCCC)C1=CC=CC=C1>>C(C(O[C:20](=[O:10])OC)C1=CC=CC=C1)([O-:21])CCCCCC 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CC)C)CC.[O-:21]C>>CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C)C)CC 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S]C([H])C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[S]C([H])C(C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[NH:10](C)C([H])C([H])C([H])C(O)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(O)C([H])C([H])C([H])[NH+:10]1(C) 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C([H])C(C)C([H])C(CC)[O+:10]1([Na])>>[O:10]([Na])C(CC)C([H])C(C)C([H])[C:20](OCC)=[O:21] 21=20;20,10=10"
"CCCCCCN([C:20]([O-:10])(O[H])[O:21]C)C>>CCCCCCN([C:20](=[O:10])O[H])C.[O-:21]C 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1CC)CC)C.[O-:21]C1=CC=CC=C1>>CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)CC)C 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)CCCCCC.[O-:21]C>>C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21]C)C1=CC=CC=C1)CCCCCC 21=20;20,10=10"
"[H][S+:10](C([H])C(C)C(CC)[S]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][S:10]C([H])C(C)C(CC)[S][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"[H][O+:10](C([H])C(C)C(C)[O]1)[C:20]1([O:21]C)[S][H].[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(C)[O][C:20]([S][H])=[O+:21]C 21=20;20,10=10"
"[O-:21][CH:20]2(C)C3=C(C(C([NH+:10]2([H]))[H])[H])C=CC=C3>>[NH:10]([H])C(C(C1=C(C=CC=C1)[CH:20](C)=[O:21])[H])[H]  21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C8=CC=CC=C8)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"[H][S+:10]([H])[C:20]1([O:21]C)[S]C(C)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C(C)C(C8=CC=CC=C8)[O]2.[H][S:10][H] 21=20;20,10=10"
"[H][O:10]C([H])C(C)[O][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21][H])[O]C(C)C([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(C)C([H])[O]2.CC[NH:10][H] 21=20;20,10=10"
"[NH:10]([H])C(C)C(O)C(O)C([H])[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])C(O)C(O)C(C)[NH+:10]1([H]) 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[O]1)[C:20]1([NH:21]C)[NH]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[O][C:20]([NH]C)=[NH+:21]C 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)CC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)CC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(CC)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C([H])[CH](CC)[NH]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O]C(CC)C([H])[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21][H])[O]C(CC)C([H])[O]1 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CC)[H])CCCCCC)CCCCCC>>CCCCCCN([C:20]1(OC(C(C([O:21]1)CC)[H])CCCCCC)[O-:10])CCCCCC 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O][H])[O]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O][H])[O]CC 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(C)C([H])[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(C)C([H])[S]1 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"[K][O:21]C.[C:20](=[O:10])(OCC)OCCCCCC>>[K][O+:21]([C:20]([O-:10])(OCC)OCCCCCC)C 21=20;20,10=10"
"CC1C(C(O[C:20](N1[H])([O-:10])[Cl:21])CC)CC>>CC1C(C(O[C:20](=[O:10])N1[H])CC)CC.[Cl-:21] 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21][H])[NH]C(C)C(CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH]C(C)C(CC)[O]2.C[NH:10][H] 21=20;20,10=10"
